US07943610B2
A solution of tert-butyl 4-{2-[(tert-butoxycarbonyl)(4-chloro-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)amino]ethyl}piperidine-1-carboxylate (1.41 g) in 7N ammonia in methanol (25 mL) was placed in a stainless steel pressure vessel and heated at 150° C. for 18 hours. The reaction mixture was cooled to ambient temperature and then concentrated under reduced pressure to provide a brown residue. The residue was suspended in anhydrous ethanol (20 mL). Hydrochloric acid (4 mL of 3M) was added and the reaction mixture was heated at reflux for 4 hours. The reaction mixture was concentrated under reduced pressure. The residue was triturated with diethyl ether and the resulting solid was isolated by filtration to provide 0.7 g of N1-(2-piperidin-4-ylethyl)-2-propyl-2H-pyrazolo[3,4-c]quinoline-1,4-diamine dihydrochloride as a brown solid. MS (APCI) m/z 353.30 (M+H)+. The experiment was repeated using 5.75 g of tert-butyl 4-{2-[(tert-butoxycarbonyl)(4-chloro-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)amino]ethyl}piperidine-1-carboxylate in 70 mL of 7N ammonia in methanol followed by treatment with 16.75 mL of 3M hydrochloric acid to provide 4.1 g of product as a brown solid. MS (APCI) m/z 353.26 (M+H)+.

reactant | tert-butyl 4-{2-[(tert-butoxycarbonyl)(4-chloro-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)amino]ethyl}piperidine-1-carboxylate | 1.41 g | C(C)(C)(C)OC(=O)N(CCC1CCN(CC1)C(=O)OC(C)(C)C)C=1N(N=C2C(=NC=3C=CC=CC3C21)Cl)CCC | C30H42ClN5O4
reactant | Hydrochloric acid | 3M, 4 mL | Cl | ClH
reactant | ammonia | 7N | N | H3N
solvent | methanol | 25 mL | CO | CH4O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N1-(2-piperidin-4-ylethyl)-2-propyl-2H-pyrazolo[3,4-c]quinoline-1,4-diamine dihydrochloride | 0.7 g | Cl.Cl.N1CCC(CC1)CCNC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCC | InChI=1S/C20H28N6.2ClH/c1-2-13-26-20(23-12-9-14-7-10-22-11-8-14)17-15-5-3-4-6-16(15)24-19(21)18(17)25-26;;/h3-6,14,22-23H,2,7-13H2,1H3,(H2,21,24);2*1H
